US05688795
substituting 3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propylamine and 2-chloro-N-methoxy-N-methylnicotinamide gave 2-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propylamino)-N-methoxy-N -methylnicotinamide hydrochloride, m.p. 161°-177° C.; Anal.: Calcd. for C23H30F3N5 O3.(HCl)1.75.(C4H8O)0.1 : C, 55.79; H, 7.04; N, 14.78%; Found: C, 55.83; H, 6.92; N, 14.69%;

reactant | 3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propylamine | FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCN)(F)F | C15H22F3N3O
reactant | 2-chloro-N-methoxy-N-methylnicotinamide | ClC1=C(C(=O)N(C)OC)C=CC=N1 | C8H9ClN2O2
product | 2-(3-{4-[2-(2,2,2-trifluoroethoxy)phenyl]piperazin-1-yl}propylamino)-N-methoxy-N -methylnicotinamide hydrochloride | Cl.FC(COC1=C(C=CC=C1)N1CCN(CC1)CCCNC1=C(C(=O)N(C)OC)C=CC=N1)(F)F | InChI=1S/C23H30F3N5O3.ClH/c1-29(33-2)22(32)18-7-5-10-27-21(18)28-11-6-12-30-13-15-31(16-14-30)19-8-3-4-9-20(19)34-17-23(24,25)26;/h3-5,7-10H,6,11-17H2,1-2H3,(H,27,28);1H
